US09056843B2
(R)—N-(pyrrolidin-3-yl)-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzenesulfonamide
(R)—N-(pyrrolidin-3-yl)-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzenesulfonamide was synthesized as (R)-3-[4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzenesulfonylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester and the Boc protecting group removed as follows: (277 mg, 0.612 mmol) of the crude coupling product was dissolved in HCl in Dioxane (1531 μL, 6.12 mmol) and stirred for 12 hr. It was concentrated to dryness to receive a brown solid. The crude product was subjected to purification by reverse phase prep-HPLC (gradient elution, water/MeCN both containing 0.1% TFA). Fractions containing the desired compound were combined and freeze-dried. The resulting mixture was dissolved in a mix of AcCN/water. They were load in a PL-HCO3 MP cartridge (from StratoSpheres™ SPE) and eluted with ACN. The eluate was freeze-dried to yield the final compound.

reactant | (R)-3-[4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzenesulfonylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F | C18H21F3N4O5S
reactant | Dioxane | 6.12 mmol, 1531 μL | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | (R)—N-(pyrrolidin-3-yl)-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzenesulfonamide | N1C[C@@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F | C13H13F3N4O3S
